US09376441B2
To a solution of methyl 4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridine-3-carboxylate (220 mg, 0.692 mmol) in THF (3.0 mL) at 0° C. was added lithium aluminum hydride (0.783 mL, 0.783 mmol, 1M solution in THF). The reaction was warmed to room temperature and was stirred for 30 minutes. The reaction was quenched by the addition of a saturated aqueous solution of KHSO4 and was then diluted with EtOAc. The layers were separated and the aqueous layer was washed with EtOAc several times until no longer cloudy. Combined organics were washed with brine, dried (MgSO4), filtered and concentrated to afford (4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridin-3-yl)methanol which was used directly in the next reaction. LCMS-ESI+ (m/z): [M+H]+ calcd for C15H13ClN2O2: 289.1; found 289.0.

reactant | methyl 4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridine-3-carboxylate | 0.692 mmol, 220 mg | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Cl)N=CC2C(=O)OC | C16H13ClN2O3
reactant | lithium aluminum hydride | 0.783 mmol, 1M, 0.783 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | (4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridin-3-yl)methanol | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Cl)N=CC2CO | C15H13ClN2O2
